US04968808
1-[2-[[[5-[(Dimethylamino)methyl]-2-furanyl]methyl]thio]ethylamino]-2-nitro-1-phenoxyethene.
A solution of 2·14 g (10 mmol) of 2-[[[5-[(dimethylamino)methyl]-2-furanyl]methyl]thio]ethylamine and 2·57 g (10 mmol) of 1,1-diphenoxy-2-nitroethene in 20 ml of acetonitrile is boiled for 2 hours. After concentration of the solution by evaporation under vacuum, the oily residue is chromatographically purified as described in Example 1 and yields 3·06 g (81%) of the title compound as a pale yellow oil which according to thin layer chromatography and 1H-NMR spectrum is identical to the compound from Example 1.

reactant | 2-[[[5-[(dimethylamino)methyl]-2-furanyl]methyl]thio]ethylamine | 10 mmol, 14 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 1,1-diphenoxy-2-nitroethene | 10 mmol, 57 g | O(C1=CC=CC=C1)C(=C[N+](=O)[O-])OC1=CC=CC=C1 | C14H11NO4
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-[2-[[[5-[(Dimethylamino)methyl]-2-furanyl]methyl]thio]ethylamino]-2-nitro-1-phenoxyethene | 81% | CN(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])OC1=CC=CC=C1 | C18H23N3O4S
